US05716950
Preparation of sodium 6-bromohexylsulfonate
To a stirred mixture of dibromohexane (81.0 g), ethanol (120 ml) and water (50 ml) is added dropwise an aqueous solution (50 ml) of sodium sulfite (12.5 g) under reflux over 2 hours. After additional refluxing for 2 hours, the reaction mixture is allowed to cool and unreacted dibromohexane is removed and then the resulting solution is concentrated under reduced pressure. 95% Ethanol (200 ml) is added and the mixture is allowed to cool at room temperature overnight and precipitated crystals are collected by filtration to give the title compound as colorless prisms. The filtrate is concentrated and is allowed to cool overnight and precipitated crystals are collected by filtration to give additional title compound.

reactant | dibromohexane | 81.0 g | BrC(CCCCC)Br | C6H12Br2
reactant | ethanol | 120 ml | C(C)O | C2H6O
reactant | sodium sulfite | 50 ml, 12.5 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 50 ml | O | H2O
product | sodium 6-bromohexylsulfonate | BrCCCCCCS(=O)(=O)[O-].[Na+] | InChI=1S/C6H13BrO3S.Na/c7-5-3-1-2-4-6-11(8,9)10;/h1-6H2,(H,8,9,10);/q;+1/p-1
